US06730687B1
5-[(3-Amino-4-methoxyphenyl)methylidene]thiazolidine-2,4-dione
5-[(4-Methoxy-3-nitrophenyl)methylidene]thiazolidine-2,4-dione (841 mg, 3.00 mmol), ethanol (20 mL) and concentrated hydrochloric acid (10 mL) were mixed, and tin chloride(II) dihydrate (2.26 g, 9.01 mmol) was added little by little at room temperature under stirring. After stirring for 8 hours at room temperature, the reaction mixture was poured into water and neutralized with saturated aqueous sodium hydrogencarbonate, which was extracted with ethyl acetate. The extracted solution was washed with water, then dried over anhydrous sodium sulfate and concentrated to obtain 641 mg (85%) of the title compound as yellowish orange powder.

reactant | 5-[(4-Methoxy-3-nitrophenyl)methylidene]thiazolidine-2,4-dione | 3.00 mmol, 841 mg | COC1=C(C=C(C=C1)C=C1C(NC(S1)=O)=O)[N+](=O)[O-] | C11H8N2O5S
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 10 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 5-[(3-Amino-4-methoxyphenyl)methylidene]thiazolidine-2,4-dione | 641 mg, 85% | NC=1C=C(C=CC1OC)C=C1C(NC(S1)=O)=O | C11H10N2O3S
